data/pmechdb/original/mc_train_fold0/raw/train.txt
CCCCCC1=CC(=C([C:11](=[CH:10]1)O)CC=C(C)C)O.CC(=C[CH2+:20])C.CC1=CC=C(C=C1)S(=O)(=O)[O-].O>>CCCCCC1=CC(=C([C+:11]([CH:10]1[CH2:20]C=C(C)C)O)CC=C(C)C)O.CC1=CC=C(C=C1)S(=O)(=O)[O-].O 10,11=10,20
CON1C2=C(C=CC=C2)C3(C1=O)CC(C4CC(=O)C3OC4)[C:11](=[O:10])[OH:12].C(=O)([C:20](=[O:21])Cl)Cl>>CON1C2=C(C=CC=C2)C3(C1=O)CC(C4CC(=O)C3OC4)[C:11](=[OH+:12])[O:10][C:20](C(=O)Cl)([O-:21])Cl 10,11=10,20;20,21=21;12=11
CC(=O)OCC1C(C=CC(O1)C=[C+:20][CH2:10][Si-:11](C)(C)(C)[O+]=C(C)O[Si](C)(C)C)OC(=O)C.C(F)(F)(F)S(=O)(=O)[O-]>>CC(=O)OCC1C(C=CC(O1)C=[C:20]=[CH2:10])OC(=O)C.CC(=[O+][Si:11](C)(C)C)O[Si](C)(C)C.C(F)(F)(F)S(=O)(=O)[O-] 10,11=10,20
[H:10][C:11](C)(C)[CH2:12][Al-:13](CC(C)C)(CC(C)C)[O+:21]=[C:20]1CCCCC1>>[H:10][C:20]1(CCCCC1)[O:21][Al:13](CC(C)C)CC(C)C.C[C:11](=[CH2:12])C 10,11=10,20;20,21=21;12,13=11,12
[H:20][N+:21](=CCC(=O)C)C.[OH2:10]>>[H:20][OH2+:10].CC(=O)CC=[N:21]C 10=20;20,21=21
[B:20](F)(F)F.CC(=O)OCC1C(C(C(C(O1)OC(=[O:10])C)OC(=O)C)OC(=O)C)OC(=O)C.C1=CC=C(C=C1)O>>[B-:20]([O+:10]=C(C)OC1C(C(C(C(O1)COC(=O)C)OC(=O)C)OC(=O)C)OC(=O)C)(F)(F)F.C1=CC=C(C=C1)O 10=20,
C[C+:20]=C1CCCN(C1)CC2=CC=CC=C2.[N-:10]=[N+]=[N-].CO.O.[Na+]>>C[C:20](=C1CCCN(C1)CC2=CC=CC=C2)[N:10]=[N+]=[N-].CO.O.[Na+] 10=20,
CO[C:11]1=[CH:10]C=CC=C1Br.O[S+:20](=O)=O>>CO[C+:11]1[CH:10](C=CC=C1Br)[S:20](=O)(=O)O 10,11=10,20
[H:20][NH+:21](C1=C(C=CC2=C1C(=O)C3=C(C2=O)C=CC=C3)NC(=O)CCl)C(C4=CC=CO4)([O-])Cl.C1=CC=[N:10]C=C1.C1CCOC1>>[H:20][N+:10]1=CC=CC=C1.C1=CC2=C(C=C1)C(=O)C3=C(C2=O)C=CC(=C3[NH:21]C(C4=CC=CO4)([O-])Cl)NC(=O)CCl.C1CCOC1 10=20;20,21=21
CC(C)[CH:20](C)[Br:21].[C-:10]#N>>CC(C)[CH:20](C)[C:10]#N.[Br-:21] 10=20;20,21=21
C[CH:20](C(=O)C)[Br:21].[C-:10]#N>>C[CH:20]([C:10]#N)C(=O)C.[Br-:21] 10=20;20,21=21
[H:20][OH2+:21].C1=CC=C(C=C1)C(=O)[O-:10]>>[H:20][O:10]C(=O)C1=CC=CC=C1.[OH2:21] 10=20;20,21=21
CCC1C[CH:20]=[C:21](C1=O)C(=O)C.CC[S-:10]>>CCC1C[CH:20]([C-:21](C1=O)C(=O)C)[S:10]CC 10=20;20,21=21
CC(=C[C:20](=[OH+:21])C)[NH:12][C:11]1=[CH:10]C=CC2=C1N=CN2.CC(=O)[O-].O>>CC1=C[C:20](C)([CH:10]2C=CC3=C([C:11]2=[NH+:12]1)N=CN3)[OH:21].CC(=O)[O-].O 10,11=10,20;12=11;20,21=21
C1=CC=C(C=C1)[CH2:20][Br:21].[OH-:10]>>C1=CC=C(C=C1)[CH2:20][OH:10].[Br-:21] 10=20;20,21=21
C[S:20][OH2+:21].[I-:10]>>C[S:20][I:10].[OH2:21] 10=20;20,21=21
[H:20][O:21]C(=O)[NH2+]C(=C([N+](=O)[O-])[N+](=O)[O-])NC(=O)O.OS(=O)(=O)[O-:10].C([N+](=O)[O-])[N+](=O)[O-]>>[H:20][O:10]S(=O)(=O)O.C(=C([N+](=O)[O-])[N+](=O)[O-])([NH2+]C(=O)[O-:21])NC(=O)O.C([N+](=O)[O-])[N+](=O)[O-] 10=20;20,21=21
[H:20][OH+:21]P(C1CCCCC1)(C2CCCCC2)(C3CCCCC3)F.C1C[N+]2(CC[N:10]1CC2)CCl.[B-](F)(F)(F)F>>[H:20][N+:10]12CC[N+](CC1)(CC2)CCl.C1CCC(CC1)P(C2CCCCC2)(C3CCCCC3)([OH:21])F.[B-](F)(F)(F)F 10=20;20,21=21
[H:20][O:21]CC.CC(C)(C[N+](=O)[O-])[O-:10]>>[H:20][O:10]C(C)(C)C[N+](=O)[O-].CC[O-:21] 10=20;20,21=21
CCC(C)C[CH:20]=[N+:21]1CCCCC1.CCOC(=O)[CH:10]=[C:11](C)[OH:12].CC(=O)[O-].C1CC[NH2+]CC1.O>>CCC(C)C[CH:20]([CH:10]([C:11](=[OH+:12])C)C(=O)OCC)[N:21]1CCCCC1.CC(=O)[O-].C1CC[NH2+]CC1.O 10,11=10,20;20,21=21;12=11
[H:20][O+:21](CC)C(C=C)([O-])OC(=O)C.[OH2:10]>>[H:20][OH2+:10].CC[O:21]C(C=C)([O-])OC(=O)C 10=20;20,21=21
[H:20][NH+:21](C1(CCC2CCN(C2C1)CCS(=O)C3=CC=CC=C3)O)NC4=CC=CC=C4.CC(=O)[O-:10]>>[H:20][O:10]C(=O)C.C1CC(CC2C1CCN2CCS(=O)C3=CC=CC=C3)([NH:21]NC4=CC=CC=C4)O 10=20;20,21=21
CC(C)[C:10](C)(CC1=CC=CC=C1)[Br:11]>>CC(C)[C+:10](C)CC1=CC=CC=C1.[Br-:11] 10,11=11
[H:20][C:21]12[C+:22](CCC34C1(C3)CCC5C4CCC6(C5CCC6=O)C)SCCS2.CC(=O)[O-:10].CS(=O)(=O)[O-]>>[H:20][O:10]C(=O)C.CC12CCC3C(C1CCC2=O)CCC45C3(C4)CC[C:22]6=[C:21]5SCCS6.CS(=O)(=O)[O-] 10=20;20,21=21,22
[H:20][O:21]C(=O)CCCC[C:10](=[C:11]([O-:12])OCC)CCC=C>>[H:20][C:10](CCCCC(=O)[O-:21])(CCC=C)[C:11](=[O:12])OCC 10,11=10,20;20,21=21;12=11
C1CCC(CC1)NC(=NC2CCCCC2)O[C:20](=[O:21])CC3=CC=CC=C3.C1CCN(C1)C2=CC=[N:10]C=C2.CCOC(=O)CC=CCO>>C1CCC(CC1)NC(=NC2CCCCC2)O[C:20](CC3=CC=CC=C3)([N+:10]4=CC=C(C=C4)N5CCCC5)[O-:21].CCOC(=O)CC=CCO 10=20;20,21=21
C[C+:20]=O.[CH:11]1=[CH:10]OC(=C1)S(=O)(=O)O>>C[C:20](=O)[CH:10]1[CH+:11]C=C(O1)S(=O)(=O)O 10,11=10,20
C[NH+]1CCC(CC1)(C2=CC=CC=C2)[C:20](=[O+:21]C)N.C[OH:10].[O-]S(=O)(=O)[O-]>>C[NH+]1CCC(CC1)(C2=CC=CC=C2)[C:20](N)([OH+:10]C)[O:21]C.[O-]S(=O)(=O)[O-] 10=20;20,21=21
[B-:10]([O+](C)C1=C2C3=C(CC4C5(C3(CCN4CC6=CC=CC=C6)C(O2)C(=O)CC5)O)C=C1)(Br)(Br)[Br:11]>>[B:10]([O+](C)C1=C2C3=C(CC4C5(C3(CCN4CC6=CC=CC=C6)C(O2)C(=O)CC5)O)C=C1)(Br)Br.[Br-:11] 10,11=11
[B:20](F)(F)F.CCCOC=[O:10]>>[B-:20]([O+:10]=COCCC)(F)(F)F 10=20,
[B:20]([O+](C)C1=C(C=CC=C1CCC)C)(Br)Br.[Br-:10]>>[B-:20]([O+](C)C1=C(C=CC=C1CCC)C)(Br)(Br)[Br:10] 10=20,
[H:20][N+:21]1=C2CC3CC(C2=CC=C1C4=C(C=CC=C4)F)C3(C)C.C1=CC=[N:10]C=C1.CC(=O)O.O.[I-]>>[H:20][N+:10]1=CC=CC=C1.CC1(C2CC1C3=CC=C([N:21]=C3C2)C4=C(C=CC=C4)F)C.CC(=O)O.O.[I-] 10=20;20,21=21
C[C+:20]=O.CC(=O)C1=C2C=C[CH:11]=[CH:10]C2=CC=C1>>C[C:20](=O)[CH:10]1[CH+:11]C=CC2=C(C=CC=C12)C(=O)C 10,11=10,20
[Li][Cu:11](C1=CC=CC=C1)[C:10]2=CC=CC=C2.C=C[C:20](=[O:21])Cl>>[Li][Cu+:11]C1=CC=CC=C1.C=C[C:20]([C:10]1=CC=CC=C1)([O-:21])Cl 10,11=10,20;20,21=21
